US05885990
Preparation of 6-amidino-1-carboxymethyl-2-naphthyl 4-aminoiminomethylaminobenzoate.
30 Milliliters of 20% aqueous methanesulfonic acid solution was added to 2.5 g of 6-amidino-1-methoxycarbonylmethyl-2-naphthyl 4-aminoiminomethylaminobenzoate.dimethanesulfonate, followed by stirring for 3 hours at 60° C. Then, 700 mg of active carbon was added to the reaction mixture, followed by stirring for 30 minutes at room temperature. Insoluble matter was filtered off and the filtrate was concentrated under reduced pressure. To the residue was added 30 ml of water to dissolve the residue. The solution was added dropwise to 150 ml of acetone, followed by stirring for 1 hour under cooling with ice. Then, the precipitate was collected by filtration and washed with a small amount of acetone to obtain 580 mg of the desired product.

reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | 6-amidino-1-methoxycarbonylmethyl-2-naphthyl 4-aminoiminomethylaminobenzoate | 2.5 g | NN=CNC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(=O)OC)C=C1 | C22H21N5O4
product | 6-amidino-1-carboxymethyl-2-naphthyl 4-aminoiminomethylaminobenzoate | 580 mg | NN=CNC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(=O)O)C=C1 | C21H19N5O4
